US05631257
2-(4-Methyl-1-piperazinyl)-6-nitrobenzoxazole
A 200 mg portion of 2-mercapto-6-nitrobenzoxazole dissolved in 40 ml of anhydrous benzene was mixed with 680 mg of phosphorus pentachloride, and the mixture was refluxed under heating for 48 hours. Under cooling with ice, 2.04 g of N-methylpiperazine dissolved in 5 ml of anhydrous benzene was added to the resulting solution, and the reaction was carried out for 2 hours at the same temperature. After adding the same amount of N-methylpiperazine, the reaction was continued for additional 72 hours at room temperature. Precipitated materials in the reaction solution were removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. The thus obtained residue was dissolved in 300 ml of ethyl acetate, washed three times with water, dehydrated with sodium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (chloroform:methanol=15:1) to obtain 230 mg of the title compound.

reactant | 2-mercapto-6-nitrobenzoxazole | SC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4N2O3S
reactant | phosphorus pentachloride | 680 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-methylpiperazine | 2.04 g | CN1CCNCC1 | C5H12N2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Methyl-1-piperazinyl)-6-nitrobenzoxazole | 230 mg | CN1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C12H14N4O3
